US05387585
3. 2.9 g of crude 6-fluoro-3H-quinazoline-4-thione are suspended in 75 ml of tetrahydrofuran. 7.9 ml of hydrazine hydrate are then added at room temperature while stirring. A solution results for a short time after about 15 min., then a precipitate separates. The mixture is stirred at room temperature for 3 h., 75 ml of methyl orthoformate are then added thereto and the tetrahydrofuran is distilled off. The residual suspension is stirred at room temperature for 3 h. The reaction solution is evaporated in a vacuum. The residue is taken up in 300 ml of water, stirred at room temperature for 1 h. and then cooled to 15° C. The crystals are filtered off and dried in a vacuum, 2.9 g of crude product are obtained. 2.4 g of 9-fluoro-1,2,4-triazolo[1,5-c]quinazoline of m.p. 193°-195° C. are obtained after recrystallization from ethanol.

reactant | 6-fluoro-3H-quinazoline-4-thione | 2.9 g | FC=1C=C2C(NC=NC2=CC1)=S | C8H5FN2S
reactant | hydrazine hydrate | 7.9 ml | O.NN
reactant | methyl orthoformate | 75 ml | C(OC)([O-])[O-]
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 9-fluoro-1,2,4-triazolo[1,5-c]quinazoline | 2.4 g | FC1=CC=2C=3N(C=NC2C=C1)N=CN3 | C9H5FN4
